US08066974B2
a) [3-Amino-2,4,6-triiodo-5-(morpholine-4-carbonyl)-phenyl]-morpholin-4-yl-methanone
The 5-amino-2,4,6-triiodo-isophthaloyl dichloride (50 g, 84 mmol) was dissolved in anhydrous THF (200 ml), morpholine (29 ml, 333 mmol) was dissolved in 50 ml THF, and added dropwise to the solution over 1 hour. The mixture stirred overnight at ambient temperature. The crude product was loaded onto silica gel (100 g) and separated using a 750 g column eluting with DCM/EtOAc (1:1). This yielded 9 g of the [3-amino-2,4,6-triiodo-5-(morpholine-4-carbonyl)-phenyl]-morpholin-4-yl-methanone.

reactant | 5-amino-2,4,6-triiodo-isophthaloyl dichloride | 84 mmol, 50 g | NC=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C8H2Cl2I3NO2
reactant | morpholine | 333 mmol, 29 ml | N1CCOCC1 | C4H9NO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | [3-Amino-2,4,6-triiodo-5-(morpholine-4-carbonyl)-phenyl]-morpholin-4-yl-methanone | NC=1C(=C(C(=C(C1I)C(=O)N1CCOCC1)I)C(=O)N1CCOCC1)I | C16H18I3N3O4
